US04335055
The procedure described in Example 1 is followed, except that 26.65 g (0.1 mol) of 3-iodobenzoyl chloride, 13 g (0.125 mol) of styrene, 12.93 g (0.1 mol) of ethyl-diisopropylamine and 0.575 g (0.001 mol) of bis-(dibenzylidene-acetone)-palladium(O) are used. After a reaction time of 3 hours at the reflux temperature in 150 ml of propionitrile, 3.05 g (0.01 mol) of 3-iodostilbene, corresponding to a yield of 10% of theory, are obtained; melting point 96° C.

reactant | 3-iodobenzoyl chloride | 0.1 mol, 26.65 g | IC=1C=C(C(=O)Cl)C=CC1 | C7H4ClIO
reactant | styrene | 0.125 mol, 13 g | C=CC1=CC=CC=C1 | C8H8
reactant | ethyl-diisopropylamine | 0.1 mol, 12.93 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | propionitrile | 150 ml | C(CC)#N | C3H5N
product | 3-iodostilbene | 0.01 mol, 3.05 g, yield of 10% | IC=1C=C(C=CC1)C=CC1=CC=CC=C1 | C14H11I
